US07491720B2
(6) Synthesis of 6-((4-(2-fluoro-3-(trifluoromethyl)benzoyl)piperazin-1-yl)methyl)-N-1H-pyrazol-3-ylpyrazin-2-amine
2.49 g of 6-((4-(2-fluoro-3-(trifluoromethyl)benzoyl)piperazin-1-yl)methyl)-N-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)pyrazin-2-amine was dissolved in 25 ml of trifluoroacetic acid and 2.5 ml of water followed by stirring at room temperature for 2 hours. The reaction solution was concentrated in vacuo, diluted with ethyl acetate, and then washed with saturated sodium bicarbonate, water and brine. The resulting organic layer was dried over magnesium sulfate and filtered, and the filtrate was concentrated. The resulting residue was purified by a silica gel column chromatography (eluent: chloroform to chloroform/methanol=5/1) to give the title compound as a solid. The resulting solid was dissolved in ethanol by heating to 80° C. The solution was charged with heptane, and heating was stopped. Then the solution was cooled slowly to room temperature. After heptane was further added, the precipitate was filtered and dried to give a crystal of the title compound.

reactant | 6-((4-(2-fluoro-3-(trifluoromethyl)benzoyl)piperazin-1-yl)methyl)-N-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)pyrazin-2-amine | 2.49 g | FC1=C(C(=O)N2CCN(CC2)CC2=CN=CC(=N2)NC2=NN(C=C2)COCC[Si](C)(C)C)C=CC=C1C(F)(F)F | C26H33F4N7O2Si
reactant | water | 2.5 ml | O | H2O
solvent | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-((4-(2-fluoro-3-(trifluoromethyl)benzoyl)piperazin-1-yl)methyl)-N-1H-pyrazol-3-ylpyrazin-2-amine | FC1=C(C(=O)N2CCN(CC2)CC2=CN=CC(=N2)NC2=NNC=C2)C=CC=C1C(F)(F)F | C20H19F4N7O
